US08283353B2
4′-formyl-2′-nitrobiphenyl-2-carbonitrile
A mixture of 4-bromo-3-nitrobenzaldehyde (10.0 g), 2-cyanophenylboric acid (8.25 g), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), dichloromethane adduct (3.45 g), tetrabutylammonium bromide (1.36 g), 2M aqueous sodium carbonate solution (40 mL) and toluene (400 mL) was refluxed under an argon atmosphere for 3 days. The reaction mixture was concentrated, and the residue was dissolved in ethyl acetate. The obtained ethyl acetate solution was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale-yellow solid (5.15 g, 40%).

reactant | 4-bromo-3-nitrobenzaldehyde | 10.0 g | BrC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | 2-cyanophenylboric acid | 8.25 g | C(#N)C1=C(C=CC=C1)OB(O)O | C7H6BNO3
reactant | dichloromethane | 3.45 g | ClCCl | CH2Cl2
reactant | sodium carbonate | 2M, 40 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 1.36 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-formyl-2′-nitrobiphenyl-2-carbonitrile | 5.15 g, 40% | C(=O)C1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)[N+](=O)[O-] | C14H8N2O3
